US04112086
7β-D-Mandelamido-7α-methoxy-3-(1-ethoxyhydroxyphosphinylmethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid
A solution of 1.16 g (2 mmol) of 7β-amino-7α-methoxy-3-(1-ethoxy-t-butoxyphosphinylmethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid t-butyl ester and 0.30 g (2 mmol) of N,N-diethylaniline in 100 ml of dry methylene chloride is stirred at 0°-5° while 0.56 g (2 mmol) of D-O-dichloroacetylmandeloyl chloride in 10 ml of methylene chloride is added dropwise over 10 minutes. The mixture is stirred in the cold for 30 minutes then warmed to room temperature and stirred for an additional 30 minutes. The solution is washed with 50 ml of cold dilute hydrochloric acid and 50 ml of cold 5% aqueous sodium bicarbonate, dried and evaporated to dryness. The residue is dissolved in a mixture of 10 ml of trifluoroacetic acid and 2 ml of m-dimethoxybenzene and stirred at ambient temperature for 2 hours. The excess trifluoroacetic acid is evaporated under vacuum and the residue is partitioned between 50 ml of ether and 50 ml of water and adjusted to pH 9.3-9.5 with 5% aqueous sodium carbonate. The organic phase is separated and discarded. The aqueous phase is stirred at pH 9.3-9.5 for 30 minutes, layered with ethyl acetate and adjusted to pH 3.0 with dilute hydrochloric acid. After separation of the layers, the aqueous phase is adjusted to pH 7 with sodium bicarbonate and passed through a XAD-7 resin column. The product-containing fractions are combined, stirred with Amberlite IR-120H ion-exchange resin and lyophilized to give the title compound.

reactant | 7β-amino-7α-methoxy-3-(1-ethoxy-t-butoxyphosphinylmethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid t-butyl ester | 2 mmol, 1.16 g | C(C)(C)(C)OC(=O)C1=C(CS[C@H]2N1C([C@@]2(OC)N)=O)C(OCC)(SC2=NN=NN2)CP(=O)OC(C)(C)C | C21H35N6O7PS2
reactant | N,N-diethylaniline | 2 mmol, 0.30 g | C(C)N(C1=CC=CC=C1)CC | C10H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 7β-D-Mandelamido-7α-methoxy-3-(1-ethoxyhydroxyphosphinylmethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | C([C@H](O)C1=CC=CC=C1)(=O)N[C@]1([C@@H]2N(C(=C(CS2)C(OCC)(SC2=NN=NN2)CP(=O)O)C(=O)O)C1=O)OC | C21H25N6O9PS2
